US08754079B2
43.1 4-[4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester
EDC (53 mg, 0.28 mmol) was added to a mixture of 0.100 g 4-[4-fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (cpd.42.2) and 0.040 g N-hydroxysuccinimide in 1 ml DMF. And stirred at rt overnight. The reaction mixture was diluted with EtOAc and washed with water and brine. The organic layer was passed through a hydrophobic frit and concentrated.

reactant | EDC | 0.28 mmol, 53 mg
reactant | 4-[4-fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.100 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2[C@H](CCCC2)OC | C21H22FN3O4S
reactant | N-hydroxysuccinimide | 0.040 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2[C@H](CCCC2)OC)S1)C | C25H25FN4O6S
